US09428502B2
Compound 74.1. 1-(4-Bromophenyl)-1H-pyrazole
Into a 100-mL round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a mixture of 1-bromo-4-iodobenzene (2.82 g, 9.97 mmol), 1H-pyrazole (680 mg, 9.99 mmol), CuI (380 mg, 2.00 mmol), DMEDA (430 μL, 4.00 mmol, 0.40 equiv), Cs2CO3 (6.52 g, 20.00 mmol) an CH3CN (40 mL). The resulting mixture was stirred overnight at 82° C. After cooling to ambient temperature, the solids were removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1:12) as the eluent to yield the title compound as a white solid (2.1 g, 94%).

reactant | 1-bromo-4-iodobenzene | 9.97 mmol, 2.82 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | 1H-pyrazole | 9.99 mmol, 680 mg | N1N=CC=C1 | C3H4N2
reactant | DMEDA | 4.00 mmol, 430 μL, 0.40 equiv | CNCCNC | C4H12N2
reactant | Cs2CO3 | 20.00 mmol, 6.52 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | CuI | 2.00 mmol, 380 mg | [Cu]I
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | 1-(4-Bromophenyl)-1H-pyrazole | 2.1 g, 94% | BrC1=CC=C(C=C1)N1N=CC=C1 | C9H7BrN2
